US08530460B2
(S)-4-(1-Amino-ethyl)-phenol hydrobromid
To 11.0 g (72.7 mmol) (S)-1-(4-methoxy-phenyl)-ethylamine is added carefully 30 mL HBr (30% in HOAc). The mixture is stirred at 100° C. for 4 h. After cooling down to r.t., the solvent is removed in vacuo and the residue is dried in vacuo. The resulting product is used without further purification.

reactant | (S)-1-(4-methoxy-phenyl)-ethylamine | 72.7 mmol, 11.0 g | COC1=CC=C(C=C1)[C@H](C)N | C9H13NO
reactant | HBr | 30 mL | Br | BrH
product | (S)-4-(1-Amino-ethyl)-phenol hydrobromid | Br.N[C@@H](C)C1=CC=C(C=C1)O | InChI=1S/C8H11NO.BrH/c1-6(9)7-2-4-8(10)5-3-7;/h2-6,10H,9H2,1H3;1H/t6-;/m0./s1
